US05876912
(b) Preparation of N-(4-Hydrazino-3-nitrophenyl)-2-[4-(4-hydroxyphenylsulphonyl)phenoxy]undecylamide
N-(4-Fluoro-3-nitrophenyl)-2-[4-(4-hydroxyphenylsulphonyl)-phenoxy]undecylamide (86.0 g, 147.0 mmole) was dissolved in dimethyl sulphoxide (500 ml), and hydrazine monohydrate (17.8 g, 355 mmole) was added in a dropwise fashion whilst keeping the temperature below 40° C. The reaction mixture was stirred for 1.5 hr at room temperature, and was then drowned in an ice/brine mixture (61). The red solid obtained was filtered off and dried at room temperature. The product was used in this crude form without any further purification.

reactant | N-(4-Fluoro-3-nitrophenyl)-2-[4-(4-hydroxyphenylsulphonyl)-phenoxy]undecylamide | 147.0 mmole, 86.0 g | FC1=C(C=C(C=C1)NC(C(CCCCCCCCC)OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)O)=O)[N+](=O)[O-] | C29H33FN2O7S
reactant | hydrazine monohydrate | 355 mmole, 17.8 g | O.NN
solvent | dimethyl sulphoxide | 500 ml | CS(=O)C | C2H6OS
product | N-(4-Hydrazino-3-nitrophenyl)-2-[4-(4-hydroxyphenylsulphonyl)phenoxy]undecylamide | N(N)C1=C(C=C(C=C1)NC(C(CCCCCCCCC)OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)O)=O)[N+](=O)[O-] | C29H36N4O7S
